US07425568B2
b) 5-Trifluoromethyl-2-(2-phenylchroman-6-yloxy)-aniline
2-Nitro-1-(2-phenylchroman-6-yloxy)-4-trifluoromethylbenzene (0.311 g) was reduced in 25 ml of glacial acetic acid with zinc (1.48 g) as described for 2-(2-phenylchroman-6-yloxy)-aniline in Example 29. Product was purified by column chromatography (CH2Cl2:n-heptane/70:30 as the eluant). 1H-NMR (300 MHz; d6-DMSO): δ 7.48-7.28 (m, 5H), 7.06 (d, 1H, J=2.2 Hz), 6.86 (dd, 1H, J=7.8 Hz, J=1.5 Hz), 6.85-6.56 (m, 3H), 6.72 (d, 1H, J=8.4 Hz), 5.40 (s, 2H), 5.10 (dd, 1H, J=10.0 Hz; J=2.3 Hz), 3.04-2.87 (m, 1H), 2.78-2.65 (m, 1H), 2.24-2.10 (m, 1H), 2.08-1.89 (m, 1H).

reactant | 2-Nitro-1-(2-phenylchroman-6-yloxy)-4-trifluoromethylbenzene | 0.311 g | [N+](=O)([O-])C1=C(C=CC(=C1)C(F)(F)F)OC=1C=C2CCC(OC2=CC1)C1=CC=CC=C1 | C22H16F3NO4
reactant | 2-(2-phenylchroman-6-yloxy)-aniline | C1(=CC=CC=C1)C1OC2=CC=C(C=C2CC1)OC1=C(N)C=CC=C1 | C21H19NO2
solvent | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
catalyst | zinc | 1.48 g | [Zn] | Zn
product | 5-Trifluoromethyl-2-(2-phenylchroman-6-yloxy)-aniline | FC(C=1C=CC(=C(N)C1)OC=1C=C2CCC(OC2=CC1)C1=CC=CC=C1)(F)F | C22H18F3NO2
